US04076821
A solution of 6.3 g of 3-trifluoromethyl-4-chloro-1-bromobenzene in 16 ml of tetrahydrofuran is added dropwise to a mixture of 0.6 g of magnesium turnings, a few crystals of iodine and 5 ml of tetrahydrofuran at room temperature with stirring by occasional cooling. After refluxing for 30 minutes, to the cooled Grignard reagent is added dropwise a solution of 7.3 g of 1-[4,4-bis(p-fluorophenyl)-2-cyclohexenyl]-4-piperidone (m.p. 112°-114° C) in 25 ml of tetrahydrofuran by occasional cooling. After the addition is complete, the resulting mixture is stirred at room temperature for 1 hour and then under reflux for an additional hour. After cooling a saturated aqueous solution of ammonium chloride is added dropwise to the reaction mixture, and the whole is extracted with ethyl acetate. The extract is washed with water and dried over sodium sulfate, and the solvent is removed. The residual oil is dissolved in acetone. To the acetone solution is added 20% ethanolic hydrochloric acid, and the whole is cooled. The precipitated crystals are collected by filtration and recrystallized from a mixture of methanol and acetone to give 1-[4,4-bis(p-fluorophenyl)-2-cyclohexenyl]-4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol hydrochloride as white crystals, melting at 252°-254° C.

reactant | 3-trifluoromethyl-4-chloro-1-bromobenzene | 6.3 g | FC(C=1C=C(C=CC1Cl)Br)(F)F | C7H3BrClF3
reactant | magnesium | 0.6 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-[4,4-bis(p-fluorophenyl)-2-cyclohexenyl]-4-piperidone | 7.3 g | FC1=CC=C(C=C1)C1(C=CC(CC1)N1CCC(CC1)=O)C1=CC=C(C=C1)F | C23H23F2NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[4,4-bis(p-fluorophenyl)-2-cyclohexenyl]-4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol hydrochloride | Cl.FC1=CC=C(C=C1)C1(C=CC(CC1)N1CCC(CC1)(O)C1=CC(=C(C=C1)Cl)C(F)(F)F)C1=CC=C(C=C1)F | InChI=1S/C30H27ClF5NO.ClH/c31-27-10-5-22(19-26(27)30(34,35)36)29(38)15-17-37(18-16-29)25-11-13-28(14-12-25,20-1-6-23(32)7-2-20)21-3-8-24(33)9-4-21;/h1-11,13,19,25,38H,12,14-18H2;1H
